US05321029
1,3-Di-cyclopentylmethyl-7-(2-hydroxypropyl)-xanthine
1,3-Di-cyclopentylmethyl-7-(2-oxopropyl)-xanthine was dissolved in methanol and stirred for 2 hours at room temperature with 5 equivalents of sodium borohydride. Thereafter, the solvent was removed in vacuo and the residue partitioned between dichloromethane and water. The organic layer was then separated and dried over sodium sulphate. After removing the organic solvent the title compound was crystallised from absolute ethanol as a white crystalline solid, m.p. 139° C.

reactant | 1,3-Di-cyclopentylmethyl-7-(2-oxopropyl)-xanthine | C1(CCCC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC(C)=O)CC1CCCC1 | C20H28N4O3
reactant | sodium borohydride | 5 equivalents | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1,3-Di-cyclopentylmethyl-7-(2-hydroxypropyl)-xanthine | C1(CCCC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC(C)O)CC1CCCC1 | C20H30N4O3
